Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
ruq pain
 
Major Surgical or Invasive Procedure:
appendectomy

 
History of Present Illness:
___ M began experiencing right lower quadrant pain on the
evening of ___. During the subsequent four days, the pain 
has
increased in severity and extended into the right upper 
quadrant,
___. Patient reports nausea but no vomiting and a temperature
of 101.2F. The pain occasionally radiates to his back. He 
reports
that he has eaten and has passed gas today and had a bowel
movement this morning. 
 
Past Medical History:
Significant for depression, hyperlipidemia, and multiple
diverticula found on colonoscopy in ___ after a year of 
episodes
of diarrhea, but no diverticulitis

 
Social History:
___
Family History:
Significant for diverticulitis in his father and brother.
Also significant for heart disease. 

 
Physical Exam:
Gen- NAD, A&Ox3, no jaundice
cardiac: RRR
respiratory: normal breath sounds
Abdomen: bowel sounds present, appropriately tender
___- warm, no edema

 
Pertinent Results:
___ 06:30PM   GLUCOSE-135* UREA N-16 CREAT-1.0 SODIUM-136 
POTASSIUM-3.6 CHLORIDE-102 TOTAL CO2-25 ANION GAP-13
___ 06:30PM   estGFR-Using this
___ 01:00PM BLOOD WBC-13.9*# RBC-4.46* Hgb-13.5* Hct-43.7 
MCV-98 MCH-30.3 MCHC-30.9* RDW-12.2 Plt ___
___ 06:30PM BLOOD WBC-12.7*# RBC-4.21* Hgb-13.4* Hct-39.7* 
MCV-94 MCH-31.7 MCHC-33.7 RDW-12.8 Plt ___
 
Brief Hospital Course:
patient admitted ___ with RUQ pain and taken to the OR for 
laparoscopic appendectomy. The appendix was found to be inflamed 
with thickened wall but not
dilated and surrounded by markedly-inflamed fat, right lower
quadrant adhesions. Patient was discharged ___ in good 
condition.

 
Medications on Admission:
Prozac, Remeron, simvastatin, omeprazole
 
Discharge Medications:
1. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
2. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.  
3. Magnesium Hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO Q6H (every 6 hours) as needed for constipation.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
acute appendicitis

 
Discharge Condition:
Activity Status: Ambulatory - Independent.
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.

 
Discharge Instructions:
No heavy lifting or straining. Resume activity as tolerated. 
Patient may shower 48 hours after procedure.
 
Followup Instructions:
___